US08012976B2
5-(Diethoxymethyl)-2-fluorobenzonitrile
To a stirred solution of 2-fluoro-5-formylbenzonitrile (5.96 g, 40 mmol) in ethanol (5.6 g, 120 mmol) was added ammonium chloride (85.6 mg, 1.6 mmol). After the addition, the mixture was cooled to 0° C. and triethyl orthoformate (6.52 g, 44 mmol) was added dropwise. After the addition, the mixture was stirred at room temperature overnight. The mixture was concentrated, then filtered and the cake washed with ethyl acetate (20 mL×2). The filtrate was concentrate to give the title compound (8.8 g, yield 98%) as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ (ppm): 1.22-1.29 (m, 6H), 3.50-3.70 (m, 4H), 5.50 (s, 1H), 7.19-7.24 (t, J=8.8 Hz, 1H), 7.70-7.74 (m, 1H), 7.76-7.78 (dd, J1=6.4 Hz, J2=2.4 Hz, 1H). LC-MS (ESI) m/z: 224 (M+1)+.

reactant | 2-fluoro-5-formylbenzonitrile | 40 mmol, 5.96 g | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | ethanol | 120 mmol, 5.6 g | C(C)O | C2H6O
reactant | triethyl orthoformate | 44 mmol, 6.52 g | C(OCC)(OCC)OCC | C7H16O3
catalyst | ammonium chloride | 1.6 mmol, 85.6 mg | [Cl-].[NH4+]
product | 5-(Diethoxymethyl)-2-fluorobenzonitrile | 8.8 g, yield 98% | C(C)OC(C=1C=CC(=C(C#N)C1)F)OCC | C12H14FNO2
